US03931407
b. 3-(3-Carboxy-4-hydroxyphenyl)-7-chloro-4,5-dihydro-2-phenylbenz[e]indole ##SPC102##
A mixture of 10.1 g. (0.03 mole) of 6-chloro-1-phenacyl-2-tetralone, 4.5 g. (0.03 mole) of 5-aminosalicylic acid and 30 ml. of glacial acetic was heated under reflux for 70 minutes, cooled and filtered. The collected solid was washed with acetic acid and petroleum ether and recrystallized from acetonitrile to give 4.3 g. (59%) of colorless crystals, m.p. 249°-251°.

reactant | 6-chloro-1-phenacyl-2-tetralone | 0.03 mole | ClC=1C=C2CCC(C(C2=CC1)CC(=O)C1=CC=CC=C1)=O | C18H15ClO2
reactant | 5-aminosalicylic acid | 0.03 mole | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 3-(3-Carboxy-4-hydroxyphenyl)-7-chloro-4,5-dihydro-2-phenylbenz[e]indole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=C(C=C3)Cl)C3=CC=CC=C3 | C25H18ClNO3
